US09416138B2
2-(Oxirane-2-ylmethoxy)-2-phenylethanol
Dissolve 2-(allyloxy)-2-phenylacetate (850 mg, 4.77 mmol) in DCM (40 mL) and add m-chloroperoxybenzoic acid (1.5 g, 8.69 mmol) in a single portion. Stir at ambient temperature overnight. Concentrate under reduced pressure and purify via flash column chromatography using 10% MeOH in DCM to elute. Remove the solvents under reduced pressure to give the product as a colorless oil (900 mg, 97.2%). MS (m/z): 195 (M+1).

reactant | 2-(allyloxy)-2-phenylacetate | 4.77 mmol, 850 mg | C(C=C)OC(C(=O)[O-])C1=CC=CC=C1
reactant | m-chloroperoxybenzoic acid | 8.69 mmol, 1.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(Oxirane-2-ylmethoxy)-2-phenylethanol | 900 mg, 97.2% | O1C(C1)COC(CO)C1=CC=CC=C1 | C11H14O3
